US07138399B2
K2. 2-Amino-4-(2-phenylethoxy)-3-nitropyridine
2.02 g of 2-fluoro-4-(2-phenylethoxy)-3-nitropyridine (starting material K3) are dissolved in 10 ml of a 5M solution of ammonia in methanol and stirred at ambient temperature for 16 hours. The solvent is distilled off and the residue is chromatographed on silica gel (dichloromethane/petroleum ether 4:1+1% triethylamine). Concentration of the pure fractions and drying in vacuo gives 1.16 g of the title compound as a yellow solid of m.p. 131–132° C. The mass spectrum shows the molecular peak MH+ at 260.0 Da.

reactant | 2-fluoro-4-(2-phenylethoxy)-3-nitropyridine | 2.02 g | FC1=NC=CC(=C1[N+](=O)[O-])OCCC1=CC=CC=C1 | C13H11FN2O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Amino-4-(2-phenylethoxy)-3-nitropyridine | 1.16 g | NC1=NC=CC(=C1[N+](=O)[O-])OCCC1=CC=CC=C1 | C13H13N3O3
